US05990105
0.10 g (0.00026 mol) of 2-bromo-4-nitro-6-(4-nitrobenzenesulphonyl)-pyridine was dissolved in 3.2 ml of dioxane and treated with 3.2 ml of 8M methylamine in ethanol. The mixture was stirred at room temperature for 3 hrs., the solvents were removed and the residue was chromatographed on silica gel with ethyl acetate/hexane 1:4. There was obtained 0.065 g (68%) of [2-bromo-6-(4-nitrobenzenesulphonyl)-pyridin-4-yl]-methylamine as pale yellow crystals; m.p.: 191-192° C.

reactant | 2-bromo-4-nitro-6-(4-nitrobenzenesulphonyl)-pyridine | 0.00026 mol, 0.10 g | BrC1=NC(=CC(=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H6BrN3O6S
reactant | methylamine | 8M, 3.2 ml | CN | CH5N
solvent | dioxane | 3.2 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | [2-bromo-6-(4-nitrobenzenesulphonyl)-pyridin-4-yl]-methylamine | 0.065 g, 68% | BrC1=NC(=CC(=C1)NC)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10BrN3O4S
